US04719036
1-(Benzothiazol-2-ylthio)-propane-2,3-dicarboxylic acid mono(butylamide)
A mixture of 7 parts of 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic anhydride and 3.6 parts of n-butylamine is heated at 55° for 3 hours to give the butylammonium salt of the above amide as a viscous oil (mixture of isomers).

reactant | 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic anhydride | S1C(=NC2=C1C=CC=C2)SCC2CC(=O)OC2=O | C12H9NO3S2
reactant | n-butylamine | C(CCC)N | C4H11N
reactant | butylammonium | C(CCC)[NH3+]
product | 1-(Benzothiazol-2-ylthio)-propane-2,3-dicarboxylic acid mono(butylamide) | C(CCC)NC(=O)C(CSC=1SC2=C(N1)C=CC=C2)CC(=O)O | C16H20N2O3S2
